US09376380B2
N,N′-(2-Phenylethane-1,1-diyl)bis(2-phenylacetamide) (44).
To a well stirred suspension of 2-phenylacetamide (540 mg, 4 mmol) in dry dichloromethane (2 mL) was added the 2-phenylacetaldehyde (240 mg, 2 mmol) and trimethylsilyltrifluoromethanesulfonate (22 mg, 0.1 mmol). The mixture was vigorously stirred for 12 h at room temperature, diluted with toluene (4 mL), and filtered. The precipitate was washed several times with toluene which was recrystallized with methanol and hexane to give the final product (560 mg, 76%). 1H NMR (400 MHz, DMSO-d6) δ 8.45 (d, J=7.6 Hz, 2H), 7.14-7.28 (m, 15H), 5.55 (t, J=7.6 Hz, 1H), 3.39 (s, 4H), 2.93 (d, J=7.2 Hz, 2H). HPLC-MS (ESI): m/z 373.2 (M+H)+.

reactant | 2-phenylacetamide | 4 mmol, 540 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | 2-phenylacetaldehyde | 2 mmol, 240 mg | C1(=CC=CC=C1)CC=O | C8H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trimethylsilyltrifluoromethanesulfonate | 0.1 mmol, 22 mg | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
product | N,N′-(2-Phenylethane-1,1-diyl)bis(2-phenylacetamide) | 560 mg, 76% | C1(=CC=CC=C1)CC(NC(CC1=CC=CC=C1)=O)NC(CC1=CC=CC=C1)=O | C24H24N2O2
